US09085583B2
A mixture of 5-methyl-1-(1-phenylethyl)-1H-pyrazole-4-carboxylic acid (49 mg, 0.21 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (95 mg, 0.5 mmol), N-hydroxybenzotrizole (67 mg, 0.5 mmol), triethylamine (0.1 mL) and dichloromethane (5 mL) was stirred at 25° C. for 0.5 hours. Then 3-(aminomethyl)-4,6-dimethylpyridin-2-ol (50 mg, 0.33 mmol) was added. The mixture was stirred at 25° C. for 12 hours. To the mixture, water (10 ml) was added and the mixture was extracted with dichloromethane (10 mL×3). The combined organic phase was dried by sodium sulfate and then filtered. The filtrate was concentrated in vacuo. The residue was purified by column chromatography (silica gel, dichloromethane/methanol=20:1) to give N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-5-methyl-1-(1-phenylethyl)-1H-pyrazole-4-carboxamide as a white solid (43 mg, 56%). LRMS (M+H+) m/z: calcd 364.19. found 364. 1H NMR (300 MHz, d6-DMSO): δ 11.46 (s, 1H), 8.34 (s, 1H), 7.70 (t, J=5.1 Hz, 1H), 7.35-7.18 (m, 5H), 5.84 (s, 1H), 5.49 (q, J=7.2 Hz, 1H), 4.20 (d, J=4.8 Hz, 2H), 2.29 (s, 3H), 2.15 (s, 3H), 2.10 (s, 3H), 1.73 (d, J=6.9 Hz, 3H).

reactant | 5-methyl-1-(1-phenylethyl)-1H-pyrazole-4-carboxylic acid | 0.21 mmol, 49 mg | CC1=C(C=NN1C(C)C1=CC=CC=C1)C(=O)O | C13H14N2O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.5 mmol, 95 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-hydroxybenzotrizole | 0.5 mmol, 67 mg | C1=CC=C2C(=C1)N=NN2O.N
reactant | 3-(aminomethyl)-4,6-dimethylpyridin-2-ol | 0.33 mmol, 50 mg | NCC=1C(=NC(=CC1C)C)O | C8H12N2O
solvent | water | 10 ml | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
product | N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-5-methyl-1-(1-phenylethyl)-1H-pyrazole-4-carboxamide | 43 mg, 56% | OC1=NC(=CC(=C1CNC(=O)C=1C=NN(C1C)C(C)C1=CC=CC=C1)C)C | C21H24N4O2
